US05668128
Diethyl ester of (2S,3S)-aziridine-2,3-dicarboxylic acid (10.3 g) obtained in Working Example 42 was dissolved in DMF (155 ml). To the solution was added sodium carbonate (4.4 g) and benzyl bromide (14.1 g), and the mixture was stirred for 15 hours at 60° C. The reaction mixture was poured into ice-cooling water, which was subjected to extraction with ethyl acetate (100 ml×2). The ethyl acetate layer was washed with water and a saturated aqueous saline solution, which was dried over anhydrous sodium sulfate and subjected to a slica gel column chromatography. Elution was conducted with eluents prepared by adding ethyl acetate to hexane in sequence. The fractions eluted with 10% (v/v) ethyl acetate were combined and concentrated to dryness to give diethyl ester of (2S,3S)-N-benzylaziridine-2,3-dicarboxylic acid (12.3 g) as a colorless oily product (yield 81%). The whole amount of the product was dissolved in ethanol (300 ml). To the solution was added, under ice-cooling, 1N aqueous solution of sodium hydroxide (44 ml). The mixture was stirred for one hour and for further 30 minutes at room temperature. The reaction mixture was adjusted to pH7, to which was added water, and the mixture was concentrated. The concentrate was adjusted to pH7, followed by washing with ether. The aqueous layer was adjusted to pH 3, to which was added sodium chloride, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous saline solution, dried over anhydrous sodium sulfate, followed by concentration to give monoethyl ester of (2S,3S)-N-benzylaziridine-2,3-dicarboxylic acid (2.0 g) as a white powdery product (yield 18%). The compound thus obtained (0.50 g) was condensed, in substantially the same manner as Working Example 8, with N-(L-phenylalanyl) benzylamine hydrochloride (0.64 g) obtained in Working Example 91 to give the above-titled compound (Compound 95; 0.91 g) as a white powdery product (yield 94%).

reactant | sodium carbonate | 4.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 14.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 155 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | (2S,3S)-N-benzylaziridine-2,3-dicarboxylic acid | 12.3 g | C(C1=CC=CC=C1)N1[C@@H]([C@H]1C(=O)O)C(=O)O | C11H11NO4
